US04638075
2-Chloro-N-(5-methyl-7-trifluoromethyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)-benzenesulfonamide
A mixture of 2.19 g (8.00 mmol) of N-(5-amino-1,2,4-triazol-3-yl)-2-chlorobenzenesulfonamide and 1.09 ml (1.38 g, 8.96 mmol) of 1,1,1-trifluoro-2,4-pentane-dione in 9 ml of glacial acetic acid was heated at reflux for 21 hours. After cooling to room temperature, the reaction mixture was poured into a mixture of ice and water. The solid which separated was collected by filtration, washed with water and dried to yield 2.90 g (93 percent) of the desired product as a white solid, mp 203°-204.5° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | N-(5-amino-1,2,4-triazol-3-yl)-2-chlorobenzenesulfonamide | 8.00 mmol, 2.19 g | NC1=NC(=NN1)NS(=O)(=O)C1=C(C=CC=C1)Cl | C8H8ClN5O2S
reactant | 1,1,1-trifluoro-2,4-pentane-dione | 8.96 mmol, 1.09 ml, 1.38 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | water | O | H2O
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-N-(5-methyl-7-trifluoromethyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)-benzenesulfonamide | 2.90 g, 93 percent | ClC1=C(C=CC=C1)S(=O)(=O)NC1=NN2C(N=C(C=C2C(F)(F)F)C)=N1 | C13H9ClF3N5O2S
